US07531576B2
Using n-pentylamine (304.2 mg), triethylamine (442.2 mg), [[2′-(N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl] bromide (400 mg) and phenyl 2,4,6-trimethylphenylcarbamate (233.8 mg), N′-pentyl-N-(2,4,6-trimethylphenyl)-N′-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]urea (113 mg) was obtained by a similar procedure as in Example 1. Yield: 22%.

reactant | n-pentylamine | 304.2 mg | C(CCCC)N | C5H13N
reactant | [[2′-(N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl] bromide | 400 mg | C1(=CC=CC=C1)C(N1N=NN=C1C1=C(C=CC=C1)C1=CC=C(C=C1)CBr)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H25BrN4
reactant | phenyl 2,4,6-trimethylphenylcarbamate | 233.8 mg | CC1=C(C(=CC(=C1)C)C)NC(OC1=CC=CC=C1)=O | C16H17NO2
solvent | triethylamine | 442.2 mg | C(C)N(CC)CC | C6H15N
product | N′-pentyl-N-(2,4,6-trimethylphenyl)-N′-[[2′-[N-(triphenylmethyl)tetrazol-5-yl]-1,1′-biphenyl-4-yl]methyl]urea | 113 mg, Yield: 22% | C(CCCC)N(C(NC1=C(C=C(C=C1C)C)C)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C48H48N6O
